### PR TITLE
Week 1

### PR DESCRIPTION
**Pull request by PatrickKinnear**
Added workshop 1 and homework 1.

### CODE REVIEW

File: ForMaL/Workshops/workshop1.lean [hunk 1]
```diff
@@ -0,0 +1,111 @@
...
+Most of the demonstration section comes [MIL].
+-/
+
+import Mathlib.Tactic
+
+/-
+# Rewriting and calculating
+-/
+
+-- Lean knows some lemmas about real numbers.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean:12]: maybe instead of real numbers, we can just say commutative rings?

Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:12]: obviously, if we do that, we would need to change all `ℝ` to some `{R : Type_}` and add the instance `[CommRing R]`

File: ForMaL/Workshops/workshop1.lean [hunk 2]
```diff
@@ -0,0 +1,111 @@
...
+  have h : a * 0 + a * 0 = a * 0 + 0 := by
+    rw [← mul_add, add_zero, add_zero]
+  rw [add_left_cancel h]
+
+/-
+#  Backwards reasoning
+-/
+
+-- Work on the goal. If the conclusion of therem_X is the same as the goal, then apply theorem_X and the new goal will be the hypotheses of theorem_X.
+example (x y z : ℝ) (h₀ : x ≤ y) (h₁ : y ≤ z) : x ≤ z := by
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean:62]: most general form of this I can think of is to change the real numbers to some linearly-ordered vector space

File: ForMaL/Workshops/workshop1.lean [hunk 3]
```diff
@@ -0,0 +1,111 @@
...
+
+/-
+# Rewriting and calculating
+-/
+
+-- Lean knows some lemmas about real numbers.
+#check mul_comm
+#check mul_assoc
+
+-- The rewrite tactic can use these lemmas.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- The rewrite tactic `rw` can use these lemmas.
```

File: ForMaL/Workshops/workshop1.lean [hunk 4]
```diff
@@ -0,0 +1,111 @@
...
+example (a b c : ℝ) : a * b * c = b * (a * c) := by
+  rw [mul_comm a b]
+  rw [mul_assoc] -- no need to supply variables here
+
+-- Can also rewrite backwards, and use hypotheses.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- Can also rewrite backwards by adding `<-` within `rw`, and use hypotheses.
```

File: ForMaL/Workshops/workshop1.lean [hunk 5]
```diff
@@ -0,0 +1,111 @@
...
+example (a b c d e f : ℝ) (h : a * b = c * d) (h' : e = f) : a * (b * e) = c * (d * f) := by
+  rw [h']
+  rw [← mul_assoc]
+  rw [h]
+  rw [mul_assoc]
+
+-- A calc block can help to structure a sequence of rewrites.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- A `calc` block can help to structure a sequence of rewrites.
```

File: ForMaL/Workshops/workshop1.lean [hunk 6]
```diff
@@ -0,0 +1,111 @@
...
+example : (a + b) * (a + b) = a * a + 2 * (a * b) + b * b :=
+  calc
+    (a + b) * (a + b) = a * a + b * a + (a * b + b * b) := by
+      rw [mul_add, add_mul, add_mul]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean:36]: add another example before this one, showing that you can combine the rewrites together

File: ForMaL/Workshops/workshop1.lean [hunk 7]
```diff
@@ -0,0 +1,111 @@
...
+      rw [mul_comm b a, ← two_mul]
+
+/-
+# Forwards reasoning
+-/
+
+-- Can proceed from the hypotheses to the goal. E.g. can rewrite in hypotheses.
+example (a b c d : ℝ) (hyp : c = d * a + b) (hyp' : b = a * d) : c = 2 * a * d := by
+  rw [hyp'] at hyp
+  rw [mul_comm d a] at hyp
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]: since you've already done `rw[`multiple rewrites`]`, why go back to using them one by one?

File: ForMaL/Workshops/workshop1.lean [hunk 8]
```diff
@@ -0,0 +1,111 @@
...
+  rw [← two_mul (a * d)] at hyp
+  rw [← mul_assoc 2 a d] at hyp
+  exact hyp -- Having constructed the exact goal in the context, we use exact.
+
+-- The have tactic allows for the introduction of intermediate hypotheses.
+theorem mul_zero (a : ℝ) : a * 0 = 0 := by
+  have h : a * 0 + a * 0 = a * 0 + 0 := by
+    rw [← mul_add, add_zero, add_zero]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]: here would be a good place to explain that indentation is important in Lean 4 (kinda like Python)

File: ForMaL/Workshops/workshop1.lean [hunk 9]
```diff
@@ -0,0 +1,111 @@
...
+
+-- Can proceed from the hypotheses to the goal. E.g. can rewrite in hypotheses.
+example (a b c d : ℝ) (hyp : c = d * a + b) (hyp' : b = a * d) : c = 2 * a * d := by
+  rw [hyp'] at hyp
+  rw [mul_comm d a] at hyp
+  rw [← two_mul (a * d)] at hyp
+  rw [← mul_assoc 2 a d] at hyp
+  exact hyp -- Having constructed the exact goal in the context, we use exact.
+
+-- The have tactic allows for the introduction of intermediate hypotheses.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- The `have` tactic allows for the introduction of intermediate hypotheses.
```

File: ForMaL/Workshops/workshop1.lean [hunk 10]
```diff
@@ -0,0 +1,111 @@
...
+# Forwards reasoning
+-/
+
+-- Can proceed from the hypotheses to the goal. E.g. can rewrite in hypotheses.
+example (a b c d : ℝ) (hyp : c = d * a + b) (hyp' : b = a * d) : c = 2 * a * d := by
+  rw [hyp'] at hyp
+  rw [mul_comm d a] at hyp
+  rw [← two_mul (a * d)] at hyp
+  rw [← mul_assoc 2 a d] at hyp
+  exact hyp -- Having constructed the exact goal in the context, we use exact.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
  exact hyp -- Having constructed the exact goal in the context, we use `exact`.
```

File: ForMaL/Workshops/workshop1.lean [hunk 11]
```diff
@@ -0,0 +1,111 @@
...
+theorem mul_zero (a : ℝ) : a * 0 = 0 := by
+  have h : a * 0 + a * 0 = a * 0 + 0 := by
+    rw [← mul_add, add_zero, add_zero]
+  rw [add_left_cancel h]
+
+/-
+#  Backwards reasoning
+-/
+
+-- Work on the goal. If the conclusion of therem_X is the same as the goal, then apply theorem_X and the new goal will be the hypotheses of theorem_X.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- Work on the goal. If the conclusion of therem_X is the same as the goal, then `apply` theorem_X and the new goal will be the hypotheses of theorem_X.
```

File: ForMaL/Workshops/workshop1.lean [hunk 12]
```diff
@@ -0,0 +1,111 @@
...
+  ring
+
+example (h : 2 * a ≤ 3 * b) (h' : 1 ≤ a) (h'' : d = 2) : d + a ≤ 5 * b := by
+  linarith
+
+/-
+# Exercises
+-/
+
+-- 1. Prove this using rw [MIL 2.1]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 1. Prove this using `rw` [MIL 2.1]
```

File: ForMaL/Workshops/workshop1.lean [hunk 13]
```diff
@@ -0,0 +1,111 @@
...
+example (a b c : ℝ) : a * (b * c) = b * (a * c) := by
+  sorry
+
+-- 2. Prove this using rw [MIL 2.1]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 2. Prove this using `rw` [MIL 2.1]
```

File: ForMaL/Workshops/workshop1.lean [hunk 14]
```diff
@@ -0,0 +1,111 @@
...
+example (a b c d e f : ℝ) (h : b * c = e * f) : a * b * c * d = a * e * f * d := by
+  sorry
+
+-- 3. Prove this using calc [MIL 2.1]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 3. Prove this using `calc` [MIL 2.1]
```

File: ForMaL/Workshops/workshop1.lean [hunk 15]
```diff
@@ -0,0 +1,111 @@
...
+example (a b c d : ℝ) (hyp : c = b * a - d) (hyp' : d = a * b) : c = 0 := by
+  sorry
+
+-- 4. Prove this using forwards reasoning.  You may need sub_self [Tut 0004]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 4. Prove this using forwards reasoning.  You may need `sub_self` [Tut 0004]
```

File: ForMaL/Workshops/workshop1.lean [hunk 16]
```diff
@@ -0,0 +1,111 @@
...
+#check sub_self
+example (a b c d : ℝ) (hyp : c = b * a - d) (hyp' : d = a * b) : c = 0 := by
+  sorry
+
+-- 5. Prove this using forwards reasoning, using have. You may need sub_nonneg [Tut 0009]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 5. Prove this using forwards reasoning, using have. You may need `sub_nonneg` [Tut 0009]
```

File: ForMaL/Workshops/workshop1.lean [hunk 17]
```diff
@@ -0,0 +1,111 @@
...
+#check sub_nonneg
+example (a b : ℝ) (hab : a ≤ b) (c : ℝ) : a + c ≤ b + c := by
+  sorry
+
+-- 6. Here are some lemmas about the ≤ relation. You may find them useful to prove the following using backwards reasoning with apply. [MIL 2.3]
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean]:
```suggestion
-- 6. Here are some lemmas about the `≤` relation. You may find them useful to prove the following using backwards reasoning with `apply`. [MIL 2.3]
```

File: README.md [hunk 18]
```diff
@@ -1,3 +1,5 @@
 # Formalising Mathematics in Lean
 
-This is the course repo!
\ No newline at end of file
+This is the course repo. The course content (workshop sheets and homeworks) is located in the folder `ForMaL`,  which also contains some references we are using in the course.
```
Comment (themathqueen) [inline README.md]:
```suggestion
This is the repository for the GlaMS course on Formalising Mathematics in Lean. The course content (workshop sheets and homeworks) is located in the folder `ForMaL`,  which also contains some references we are using.
```

File: README.md [hunk 19]
```diff
@@ -1,3 +1,5 @@
...
+
+You can clone this repository to your own computer to work on things, if you already have lean installed. Or you can use codespaces by choosing the codespaces tab under the top right code menu, to try using lean in your web browser.
```
Comment (themathqueen) [inline README.md]:
```suggestion
## How to work on this

1. The easy method: Use Lean in your very own web browser!
   This is done by using Codespaces: you can find this option in the tab under the top right code menu.

2. Installing Lean on your computer following these [instructions](https://leanprover-community.github.io/get_started.html).
   Then you can clone this repository to your own computer by writing `leanprover get glams-lean-2024/formal-2024` in your terminal.
```

**Review by themathqueen — CHANGES_REQUESTED** [review]
Only checked `workshop1.lean`, will check the homework tomorrow!

File: README.md (hunk 19 above)
Comment (themathqueen) [reply README.md]: Should probably add a Codespaces link, and also a Gitpod link (instead of you navigating to the top right code menu and so on).

I'll do this tomorrow!

File: ForMaL/Workshops/workshop1.lean (hunk 1 above)
Comment (AdrianDoM) [reply ForMaL/Workshops/workshop1.lean:12]: It might be better to keep things simple in the first session, and not use any typeclasses or implicit arguments.

File: ForMaL/Workshops/workshop1.lean [hunk 20]
```diff
@@ -0,0 +1,111 @@
...
+  rw [add_left_cancel h]
+
+/-
+#  Backwards reasoning
+-/
+
+-- Work on the goal. If the conclusion of therem_X is the same as the goal, then apply theorem_X and the new goal will be the hypotheses of theorem_X.
+example (x y z : ℝ) (h₀ : x ≤ y) (h₁ : y ≤ z) : x ≤ z := by
+  apply le_trans
+  · apply h₀
```
Comment (AdrianDoM) [inline ForMaL/Workshops/workshop1.lean:64]: This is the first time there are more than two goals open after applying a tactic. Perhaps we should mention that Lean targets the first one until it is resolved, and then moves on to the next. Also that the `\.` here are ~just cosmetic~ focusing on the first open subgoal.

File: ForMaL/Workshops/workshop1.lean [hunk 21]
```diff
@@ -0,0 +1,111 @@
...
+example (a b : ℝ) (hab : a ≤ b) (c : ℝ) : a + c ≤ b + c := by
+  sorry
+
+-- 6. Here are some lemmas about the ≤ relation. You may find them useful to prove the following using backwards reasoning with apply. [MIL 2.3]
+
+#check lt_of_le_of_lt
+#check lt_of_lt_of_le
+#check lt_trans
+
+example (a b c d e : ℝ) (h₀ : a ≤ b) (h₁ : b < c) (h₂ : c ≤ d) (h₃ : d < e) : a < e := by
```
Comment (AdrianDoM) [inline ForMaL/Workshops/workshop1.lean:115]: After they've done this with a series of `apply`s, we should encourage them to do it with a `calc` block, so they can learn to appreciate `calc`.

File: ForMaL/Workshops/workshop1.lean (hunk 2 above)
Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:62]: probably keep this with real numbers then based on the above comment

File: ForMaL/Workshops/workshop1.lean (hunk 21 above)
Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:115]: and a line-one proof of `:= le_trans _ _` or something

**Comment by themathqueen** [comment]
It might be a better idea to keep the references out of the ForMaL folder?
so something like
```
- ForMaL      -| Workshops
|              | Homework
|
- References  -| ...
```

File: ForMaL/References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean [hunk 22]
```diff
@@ -1,6 +1,6 @@
 import Mathlib.Algebra.Ring.Defs
 import Mathlib.Data.Real.Basic
-import MIL.Common
+--import MIL.Common
```
Comment (themathqueen) [inline ForMaL/References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean]: why?

File: ForMaL/References/MIL/C02_Basics/solutions/Solutions_S03_Using_Theorems_and_Lemmas.lean [hunk 23]
```diff
@@ -1,5 +1,5 @@
 import Mathlib.Analysis.SpecialFunctions.Log.Basic
-import MIL.Common
+-- import MIL.Common
```
Comment (themathqueen) [inline ForMaL/References/MIL/C02_Basics/solutions/Solutions_S03_Using_Theorems_and_Lemmas.lean]: why?

File: ForMaL/References/tutorials-project/Exercises/00FirstProofs.lean [hunk 24]
```diff
@@ -7,6 +7,7 @@ Everything is covered again more slowly and with exercises in the next files.
 import Mathlib.Data.Real.Basic
 -- We want to be able to use Lean's built-in "help" functionality
 import Mathlib.Tactic.LibrarySearch
+import Mathlib.Tactic
```
Comment (themathqueen) [inline ForMaL/References/tutorials-project/Exercises/00FirstProofs.lean]: why?

File: ForMaL/Workshops/workshop1.lean (hunk 21 above)
Comment (PatrickKinnear) [reply ForMaL/Workshops/workshop1.lean:115]: I think asking for a calc proof makes sense. But for a one-liner, we haven't yet covered how to do that, and maybe a better time to is in the next couple of weeks.

Comment (AdrianDoM) [reply ForMaL/Workshops/workshop1.lean:115]: We haven't mentioned proof terms yet, so perhaps a one-line proof term proof would be confusing. Although it could make them curious about how it works too

File: ForMaL/Homeworks/homework1.lean [hunk 25]
```diff
@@ -0,0 +1,102 @@
+/-
+# Homework 1: Basics
+References: [MIL] Mathematics in Lean, [Tut] Tutorials project.
+-/
+
+import Mathlib.Tactic
+
+/-
+# Problem  1
+Read the following section of [Tut] and complete the exercises 0013, 0014, 0015. The exercise is to prove the same statement using backwards reasoning, forwards reasoning, and a combination of both.
```
Comment (themathqueen) [inline ForMaL/Homeworks/homework1.lean]: why not just summarise and put in the most relevant of information?

Comment (themathqueen) [reply ForMaL/Homeworks/homework1.lean]: Oh wait, you mean the following section is from `[Tut]`?

File: ForMaL/Homeworks/homework1.lean [hunk 26]
```diff
@@ -0,0 +1,102 @@
...
+-/
+
+/-
+We announce the use of a lemma, and provide proofs after the fact, using
+the `apply` tactic. This is called backward reasoning because we get the conclusion
+first, and provide proofs later. Using `rw` on the goal (rather than on an assumption
+from the local context) is also backward reasoning.
```
Comment (themathqueen) [inline ForMaL/Homeworks/homework1.lean]: don't know why, but this reads super weird

File: ForMaL/Homeworks/homework1.lean [hunk 27]
```diff
@@ -0,0 +1,102 @@
...
+
+Let's do that using the lemma
+
+  `mul_nonneg {x y : ℝ} (hx : 0 ≤ x) (hy : 0 ≤ y) : 0 ≤ x*y`
```
Comment (themathqueen) [inline ForMaL/Homeworks/homework1.lean]: have we explained what the difference between writing `{x y : ℝ}` and `(x y : ℝ)` would mean in the workshop? or should we do that in the homework?

File: ForMaL/Workshops/workshop1.lean (hunk 20 above)
Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:64]: it's mentioned in the homework, lines 30-32:
```lean
-- There are now two things to prove. We use the center dot (typed using `\.`) to
-- focus on the current first goal.
 ```

File: ForMaL/Homeworks/homework1.lean
Comment (themathqueen) [inline ForMaL/Homeworks/homework1.lean:1]: wait is everything after line 11 from the Tutorials project?

File: References/MIL/C01_Introduction/S02_Overview.lean [hunk 28]
```diff
@@ -1,6 +1,7 @@
 import Mathlib.Data.Nat.Basic
 import Mathlib.Data.Nat.Parity
-import MIL.Common
+import Mathlib.Tactic
+--import MIL.Common
```
Comment (themathqueen) [inline References/MIL/C01_Introduction/S02_Overview.lean:4]: why tho?

File: References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean [hunk 29]
```diff
@@ -1,6 +1,6 @@
 import Mathlib.Algebra.Ring.Defs
 import Mathlib.Data.Real.Basic
-import MIL.Common
+--import MIL.Common
```
Comment (themathqueen) [inline References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean:3]: again, why tho?

File: References/MIL/C02_Basics/solutions/Solutions_S03_Using_Theorems_and_Lemmas.lean [hunk 30]
```diff
@@ -1,5 +1,5 @@
 import Mathlib.Analysis.SpecialFunctions.Log.Basic
-import MIL.Common
+-- import MIL.Common
```
Comment (themathqueen) [inline References/MIL/C02_Basics/solutions/Solutions_S03_Using_Theorems_and_Lemmas.lean:2]: why

File: References/tutorials-project/Exercises/00FirstProofs.lean [hunk 31]
```diff
@@ -7,6 +7,7 @@ Everything is covered again more slowly and with exercises in the next files.
 import Mathlib.Data.Real.Basic
 -- We want to be able to use Lean's built-in "help" functionality
 import Mathlib.Tactic.LibrarySearch
+import Mathlib.Tactic
```
Comment (themathqueen) [inline References/tutorials-project/Exercises/00FirstProofs.lean:10]: why

**Review by themathqueen — CHANGES_REQUESTED** [review]

File: ForMaL/References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean (hunk 22 above)
Comment (PatrickKinnear) [reply ForMaL/References/MIL/C02_Basics/solutions/Solutions_S02_Proving_Identities_in_Algebraic_Structures.lean]: idk it wasn't compiling for me because of the import. I didn't really mean to commit the change that was bad git of me

File: ForMaL/Homeworks/homework1.lean
Comment (PatrickKinnear) [reply ForMaL/Homeworks/homework1.lean:1]: yes

File: ForMaL/References/tutorials-project/Exercises/00FirstProofs.lean (hunk 24 above)
Comment (PatrickKinnear) [reply ForMaL/References/tutorials-project/Exercises/00FirstProofs.lean]: again just the fastest thing I could do to get it to compile

Comment (themathqueen) [reply ForMaL/References/tutorials-project/Exercises/00FirstProofs.lean]: is it still that way for you now?

File: ForMaL/Homeworks/homework1.lean (hunk 26 above)
Comment (PatrickKinnear) [reply ForMaL/Homeworks/homework1.lean]: Yeah I also wasn't quite happy with it, it's lifted from the tutorials project but I can rephrase it.

File: ForMaL/Homeworks/homework1.lean (hunk 25 above)
Comment (themathqueen) [reply ForMaL/Homeworks/homework1.lean]:
```suggestion
Please read the following and complete the exercises below. This is a section from [Tut]. The exercise is to prove the same statement using backwards reasoning, forwards reasoning, and a combination of both.
```

File: ForMaL/Workshops/workshop1.lean [hunk 32]
```diff
@@ -0,0 +1,111 @@
...
+
+/-
+# Rewriting and calculating
+-/
+
+-- Lean knows some lemmas about real numbers.
+#check mul_comm
+#check mul_assoc
+
+-- The rewrite tactic `rw` can use these lemmas.
```
Comment (themathqueen) [inline ForMaL/Workshops/workshop1.lean:16]: should we maybe also say something like, "the following example states that `abc=b(ac)` for all real numbers `a`,`b`, and `c`"

Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:16]: and same goes for the rest of the examples and lemmas

**Review by themathqueen — CHANGES_REQUESTED** [review]

File: ForMaL/Workshops/workshop1.lean (hunk 32 above)
Comment (PatrickKinnear) [reply ForMaL/Workshops/workshop1.lean:16]: I would have intended to say this in words as I step through the proof in demonstrating. What do you think?

File: ForMaL/Homeworks/homework1.lean (hunk 26 above)
Comment (PatrickKinnear) [reply ForMaL/Homeworks/homework1.lean]: Have rephrased.

File: ForMaL/Homeworks/homework1.lean (hunk 27 above)
Comment (PatrickKinnear) [reply ForMaL/Homeworks/homework1.lean]: We haven't explained in the workshop and I think we should leave it until another time. I've re-written these sections using `#check`. These still have curly braces in the docstring but I think that an important skill (as a learner) is to be able to filter out the parts of the docstring that don't make sense and still extract what the lemma does. My hope is that that is what the students will do here.

File: ForMaL/Homeworks/homework1.lean [hunk 33]
```diff
@@ -11,15 +11,16 @@ Please read the following and complete the exercises below. This is a section fr
 -/
 
 /-
-We announce the use of a lemma, and provide proofs after the fact, using
-the `apply` tactic. This is called backward reasoning because we get the conclusion
-first, and provide proofs later. Using `rw` on the goal (rather than on an assumption
-from the local context) is also backward reasoning.
+We are going to prove that multiplication by a nonnegative real number preserves the ≤ relation on real numbers. That is: for real numbers a, b, c with a ≤ b and 0 ≤ c, then a * c ≤ b * c. We will use the following lemmas:
```
Comment (themathqueen) [inline ForMaL/Homeworks/homework1.lean]:
```suggestion
We are going to prove that multiplication by a nonnegative real number preserves the `≤` relation on real numbers. That is: for real numbers `a, b, c`, if `a ≤ b` and `0 ≤ c`, then `a * c ≤ b * c`. We will use the following lemmas:
```

File: ForMaL/Workshops/workshop1.lean (hunk 32 above)
Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:16]: oh is this for the demo part of the lecture?

File: ForMaL/Homeworks/homework1.lean (hunk 27 above)
Comment (themathqueen) [reply ForMaL/Homeworks/homework1.lean]: okok, hopefully

File: ForMaL/Workshops/workshop1.lean (hunk 32 above)
Comment (PatrickKinnear) [reply ForMaL/Workshops/workshop1.lean:16]: yes, the idea is that the part before the exercises I'll explain/demo to describe the various tactics and concepts. Then there's time for the students to try themselves in the exercises.

Comment (themathqueen) [reply ForMaL/Workshops/workshop1.lean:16]: ah okok fair

**Review by themathqueen — APPROVED** [review]
ok imma approve and then we can fix whatever happens next
